US05883106
E. Methyl 4-(3-mercaptophenyl)-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate
Methyl4-(3-methylsulfinylphenyl)-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate (12.2 g, 43 mmol) was dissolved in trifluoroacetic anhydride (50 ml) and heated at reflux for 30 min. Volatiles were removed by evaporation and the residue was dissolved into methyl alcohol (100 ml). Triethylamine (100 ml) was added over 5 min and the mixture concentrated to dryness. The residue was dissolved in ethyl acetate (500 ml), washed with saturated aqueous ammonium chloride (200 ml) and brine (200 ml), dried (magnesium sulfate) and concentrated to dryness to provide crude titled compound as a pale black liquid which was used as such without further purification.

reactant | Methyl4-(3-methylsulfinylphenyl)-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate | 43 mmol, 12.2 g | COC(=O)C1(CCOCC1)C1=CC(=CC=C1)S(=O)C | C14H18O4S
solvent | trifluoroacetic anhydride | 50 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | Methyl 4-(3-mercaptophenyl)-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate | SC=1C=C(C=CC1)C1(CCOCC1)C(=O)OC | C13H16O3S
